US04451551
To 17 g (90 millimoles) of p-azidocinnamic acid was added 53 g (450 millimoles) of thionyl chloride, and the resulting solution was refluxed with heating. When the generation of SO2 gas terminated, the reflux was stopped, after which the excess thionyl chloride was distilled off under reduced pressure to obtain 14.8 g of p-azidocinnamic acid chloride as the distillation residue.

reactant | p-azidocinnamic acid | 90 millimoles, 17 g | N(=[N+]=[N-])C1=CC=C(C=CC(=O)O)C=C1 | C9H7N3O2
reactant | thionyl chloride | 450 millimoles, 53 g | S(=O)(Cl)Cl | Cl2OS
product | p-azidocinnamic acid chloride | 14.8 g | N(=[N+]=[N-])C1=CC=C(C=CC(=O)Cl)C=C1 | C9H6ClN3O
